.title KiCad schematic
.include "/Users/hauksbee-user/Tarski/Tarski-Repos/board-corpus/kicad-demos-src/demos/simulation/sallen_key/ad8051.lib"
.ac dec 10 1 1Meg

.control
version
.endc
R1 Net-_C1-Pad2_ Net-_R1-Pad2_ 1k
V1 Net-_R1-Pad2_ GND DC ac=1 AC 1  
C1 /lowpass Net-_C1-Pad2_ 100n
XU1 Net-_U1-+_ /lowpass VDD VSS /lowpass AD8051
C2 Net-_U1-+_ GND 100n
R2 Net-_U1-+_ Net-_C1-Pad2_ 1k
V2 VDD GND DC 10 
V3 GND VSS DC 10 
.end
